US08048897B2
(1) Synthesis of 2-Benzyloxy-5-methoxybenzaldehyde
To a solution of 2-hydroxy-5-methoxybenzaldehyde (3.0 g, 19.7 mmol) in N,N-dimethylformamide (50 mL), potassium carbonate (3.27 g, 23.6 mmol) was added and furthermore benzyl bromide (2.6 mL, 21.7 mmol) was added thereto. The reaction mixture was stirred at room temperature for 24 hours, and then water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (4.8 g, 100%).

reactant | 2-hydroxy-5-methoxybenzaldehyde | 19.7 mmol, 3.0 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | potassium carbonate | 23.6 mmol, 3.27 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 21.7 mmol, 2.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-Benzyloxy-5-methoxybenzaldehyde | 4.8 g, 100% | C(C1=CC=CC=C1)OC1=C(C=O)C=C(C=C1)OC | C15H14O3
